US03968228
1-Methyl-2-bromoethyl-4-nitro-5-bromoimidazole
0.596 G. (0.00214 moles) of 1-methyl-2-acetoxymethyl-4-nitro-5-bromoimidazole is dissolved in 20 ml. of acetic acid and treated with gaseous HBr for 5 minutes at room temperature. The reaction mixture is refluxed on a steam bath for 1 hour, cooled and evaporated to dryness. The residue is dissolved in chloroform, treated with 10% potassium bicarbonate solution. The chloroform layer is separated, dried and evaporated to dryness, affording 0.568 g. of 1-methyl-2-bromomethyl-4-nitro-5-bromoimidazole, recovered as an oil.

reactant | 1-methyl-2-acetoxymethyl-4-nitro-5-bromoimidazole | 0.00214 moles | CN1C(=NC(=C1Br)[N+](=O)[O-])COC(C)=O | C7H8BrN3O4
reactant | HBr | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Methyl-2-bromoethyl-4-nitro-5-bromoimidazole | CN1C(=NC(=C1Br)[N+](=O)[O-])CCBr | C6H7Br2N3O2
